US03978116
A mixture of 24.4 g. of methyl 6-methoxy-2-naphthyl-α-methylacetate, 25 g. of sodium metal, and 500 ml. of anhydrous iso-amyl alcohol are refluxed for 18 hours. The cooled reaction mixture is acidified by the addition of aqueous IN hydrochloric acid. The product is isolated by diethyl ether extraction to give methyl 6-methoxy-3,4-dihydro-2-naphthyl-α-methylacetate.

reactant | methyl 6-methoxy-2-naphthyl-α-methylacetate | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)OC)C | C15H16O3
reactant | sodium | [Na] | Na
reactant | iso-amyl alcohol | C(CC(C)C)O | C5H12O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | hydrochloric acid | Cl | ClH
product | methyl 6-methoxy-3,4-dihydro-2-naphthyl-α-methylacetate | COC=1C=C2CCC(=CC2=CC1)C(C(=O)OC)C | C15H18O3
